US03996380
To a mixture of 10.15 g. of terephthaloyl chloride, 8.41 g. propargyl alcohol and 200 ml. anhydrous ether at 5° under nitrogen is slowly added with stirring 16.1 ml. of pyridine. The reaction mixture is stirred for 4 hours at 5° and for 21/2 hour at room temperature. Water (2 ml.) is added and the mixture is stirred for 1/2 hour. Additional water (100 ml.) is added, the organic layer is extracted with ether and pentane and the reaction mixture is worked up using the procedure of Example 1 to yield bis(propargyl)terephthalate, m.p. 109-109.5.

reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | ether | CCOCC | C4H10O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | 100 ml | O | H2O
solvent | Water | 2 ml | O | H2O
product | bis(propargyl)terephthalate | C(C#C)OC(C1=CC=C(C(=O)OCC#C)C=C1)=O | C14H10O4
